US07977477B2
To a solution of N-[4-methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenyl]-acetamide (1.34 g, 3.97 mmol) in MeOH (40 ml) was added sodium methoxide (1 g, 18.5 mmol) reaction stirred RT for 48 hours then reduced in vacuo. The residue was triturated with water and the solid filtered and washed with further water. Solid dried to yield 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenylamine (0.9 g), (LC/MS (acidic method): Rt 1.72, [M+H]+ 296)

reactant | N-[4-methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenyl]-acetamide | 3.97 mmol, 1.34 g | COC1=CC(=C(C=C1OCN1CCC(CC1)C)NC(C)=O)[N+](=O)[O-] | C16H23N3O5
reactant | sodium methoxide | 18.5 mmol, 1 g | C[O-].[Na+]
solvent | MeOH | 40 ml | CO | CH4O
product | 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenylamine | 0.9 g | COC1=CC(=C(C=C1OCN1CCC(CC1)C)N)[N+](=O)[O-] | C14H21N3O4
